US04279905
A solution of 88 g (0.5 mole) 2,3,4,5-tetrahydro-1-benzoxepin-3,5-dione and a spatula tip of p-toluene sulfonic acid in 750 ml toluene are mixed while stirring with 44 g (0.5 mole) N,N-dimethylethylenediamine and subsequently stirred to the end of the reaction at room temperature. After concentration of the solution, a product is obtained by filtering off the solution under suction and subsequently recrystallizing from benzene/ligroin. 108 g (88% of the theoretical yield) of 3-(β-dimethylaminoethylamino)-1-benzoxepin-5(2H)-one are obtained. The melting point of this derivative is 100 to 101° C.

reactant | 2,3,4,5-tetrahydro-1-benzoxepin-3,5-dione | 0.5 mole, 88 g | O1CC(CC(C2=C1C=CC=C2)=O)=O | C10H8O3
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N,N-dimethylethylenediamine | 0.5 mole, 44 g | CN(CCN)C | C4H12N2
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(β-dimethylaminoethylamino)-1-benzoxepin-5(2H)-one | CN(CCNC=1COC2=C(C(C1)=O)C=CC=C2)C | C14H18N2O2
